US07498346B2
To a solution of 3,5-dibromo-4-methyl-pyridin-2-ylamine (3.38 g, 12.7 mmol) in THF (60 mL) cooled to −78° C. was added n-BuLi (1.9M in pentane) (13.4 mL, 25.4 mmol) to give an orange solution. The solution was stirred at −78° C. for 1 h and then quenched with water (10 mL). The pH of the mixture was adjusted to ˜12 with 10N NaOH and then extracted with CH2Cl2 (3×30 mL), dried (Na2SO4), filtered and concentrated in vacuo to give an orange oil. Purification by column chromatography on silica gel (Et2O) afforded 3-bromo-4-methyl-pyridin-2-ylamine (1.68 g, 71%) as a pale yellow solid. 1H NMR (CDCl3) δ 2.32 (s, 3H), 5.00 (br s, 2H), 6.52 (d, 1H, J=6.0 Hz), 7.84 (d, 1H, J=6.0 Hz).

reactant | 3,5-dibromo-4-methyl-pyridin-2-ylamine | 12.7 mmol, 3.38 g | BrC=1C(=NC=C(C1C)Br)N | C6H6Br2N2
reactant | n-BuLi | 25.4 mmol, 1.9M, 13.4 mL | [Li]CCCC
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 3-bromo-4-methyl-pyridin-2-ylamine | 1.68 g, 71% | BrC=1C(=NC=CC1C)N | C6H7BrN2
